US07674813B2
To pyrrole-2-carboxaldehyde (1.0 g, 10.5 mmol) in THF (60 mL) was added KOtBu (1.2 g, 10.5 mmol), Et4N+I− (100 mg) and 4-methoxybenzyl chloride (1.4 mL, 10.5 mmol). After 1 day saturated aqueous ammonium chloride was added and the mixture was extracted with EtOAc. The organic extract was dried over Na2SO4 and concentrated. Column chromatography (EtOAc/hexanes, 1:9) provided 1.48 g (65%) of 1-(4-methoxybenzyl)-1H-pyrrole-2-carbaldehyde as an oil.

reactant | pyrrole-2-carboxaldehyde | 10.5 mmol, 1.0 g | N1C(=CC=C1)C=O | C5H5NO
reactant | KOtBu | 10.5 mmol, 1.2 g | CC(C)(C)[O-].[K+]
reactant | 4-methoxybenzyl chloride | 10.5 mmol, 1.4 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-(4-methoxybenzyl)-1H-pyrrole-2-carbaldehyde | 1.48 g, 65% | COC1=CC=C(CN2C(=CC=C2)C=O)C=C1 | C13H13NO2
